** sch_path: /foss/designs/Designs/bias-other/xschem/ringosci.sch
**.subckt ringosci vdd lo
*.ipin vdd
*.opin lo
x1 net1 vdd lo inv
x2 net2 vdd net1 inv
x3 lo vdd net2 inv
**.ends

* expanding   symbol:  xschem/inv.sym # of pins=3
** sym_path: /foss/designs/Designs/bias-other/xschem/inv.sym
** sch_path: /foss/designs/Designs/bias-other/xschem/inv.sch
.subckt inv out vdd in
*.opin out
*.ipin vdd
*.ipin in
XM1 out in gnd GND nfet_06v0 L=0.70u W=wn nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM2 out in vdd VDD pfet_06v0 L=0.55u W=wp nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
**** begin user architecture code

.param wn=2u wp=5u

**** end user architecture code
.ends

.end
